US04588732
A solution of 5-formylimidazo[1,5-a]pyridine (1.46 g) in 15 ml of dry dimethylsulfoxide is added to a solution of sodium 5-(triphenylphosphoranyl)valerate (4.4 g) in 50 ml of dry dimethylsulfoxide at room temperature (Helv. Chem. Acta 63 1430 (1980)). The reaction is stirred for 3 hours, hydrolyzed with water and neutralized with dilute sulfuric acid. Extraction with ethyl acetate and chromatography or silica gel yields 5-(5-carboxypent-1-enyl)-imidazo[1,5-a]pyridine.

reactant | 5-formylimidazo[1,5-a]pyridine | 1.46 g | C(=O)C1=CC=CC=2N1C=NC2 | C8H6N2O
reactant | sodium 5-(triphenylphosphoranyl)valerate | 4.4 g | C1(=CC=CC=C1)P(CCCCC(=O)[O-])(C1=CC=CC=C1)C1=CC=CC=C1.[Na+]
reactant | water | O | H2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 5-(5-carboxypent-1-enyl)-imidazo[1,5-a]pyridine | C(=O)(O)CCCC=CC1=CC=CC=2N1C=NC2 | C13H14N2O2
